US06518306B1
4-[4-(2-Aminopyrimidin-5-yl)phenyl]-4-(3-cyclopentyloxy-4-methoxyphenyl)-cyclohexanone
A slurry of 4-[4-(2-aminopyrimidin-5-yl)phenyl]-4-(3-cyclopentyloxy-4-methoxyphenyl)-2-cyclohexen-1-one (1.2 g, 2.63 mmol) in ethyl acetate (20 ml) with palladium on activated carbon (360 mg, 30% w/w) was stirred under hydrogen at atmospheric pressure for three days then filtered and the residue washed with dichloromethane. The combined organic solution was evaporated to afford the title compound as a gray solid (1.05 g, 88% crude yield). 1H-NMR (400 MHz, CDCl3): δ 8.51 (s, 2H), 7.44 (d, 2H, J=8.4), 7.38 (d, 2H, J=8.4), 6.89 (dd, 1H, J=8.4, J=2.2), 6.84 (d, 1H, J=8.4), 6.83 (d, 1H, J=2.2), 5.21 (s, 2H), 4.69 (m, 1H), 3.83(s, 3H), 2.64 (m, 4H), 2.48 (m, 4H). 1.81 (m, 6H), 1.57 (m, 2H).

reactant | 4-[4-(2-aminopyrimidin-5-yl)phenyl]-4-(3-cyclopentyloxy-4-methoxyphenyl)-2-cyclohexen-1-one | 2.63 mmol, 1.2 g | NC1=NC=C(C=N1)C1=CC=C(C=C1)C1(C=CC(CC1)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C28H29N3O3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 360 mg | [Pd] | Pd
product | 4-[4-(2-Aminopyrimidin-5-yl)phenyl]-4-(3-cyclopentyloxy-4-methoxyphenyl)-cyclohexanone | 1.05 g | NC1=NC=C(C=N1)C1=CC=C(C=C1)C1(CCC(CC1)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C28H31N3O3
